US09255097B2
Preparation 1A: 2,5,6-trichloropyrimidin-4-ol
To a solution of 2,4,5,6-tetrachloropyrimidine (5 g, 22.9 mmol) in THF (50 mL) was added 1N NaOH (31 mL, 31.2 mmol) dropwise, and the mixture was stirred overnight at RT. The solution was acidified with 1N HCl and extracted with DCM (3×). The organics were combined, dried, and concentrated in vacuo. The solids were slurried in Et2O for 30 min at RT, filtered, washed with Et2O, and dried to give 3.0 g (66%) of the title compound. [M+H] Calc'd for C4HCl3N2O, 201. Found, 201.

reactant | 2,4,5,6-tetrachloropyrimidine | 22.9 mmol, 5 g | ClC1=NC(=C(C(=N1)Cl)Cl)Cl | C4Cl4N2
reactant | NaOH | 31.2 mmol, 1N, 31 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2,5,6-trichloropyrimidin-4-ol | 3.0 g, 66% | ClC1=NC(=C(C(=N1)O)Cl)Cl | C4HCl3N2O
